Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Br[CH2:1][C:2]([O:3][C@H:4]1[C@@H:5]([CH2:6][CH3:7])[CH2:8][C@H:9]2[C@@H:10]3[CH2:11][CH2:12][C:13]4=[CH:14][C:15](=[O:16])[CH2:17][CH2:18][C@@H:19]4[C@H:20]3[CH2:21][CH2:22][C@:23]12[CH3:24])=[O:25].[CH3:26][CH2:27][CH:28]([CH3:29])[C:30](=[O:31])[OH:32]>>[CH2:1]([C:2]([O:3][C@H:4]1[C@@H:5]([CH2:6][CH3:7])[CH2:8][C@H:9]2[C@@H:10]3[CH2:11][CH2:12][C:13]4=[CH:14][C:15](=[O:16])[CH2:17][CH2:18][C@@H:19]4[C@H:20]3[CH2:21][CH2:22][C@:23]12[CH3:24])=[O:25])[O:32][C:30]([CH:28]([CH2:27][CH3:26])[CH3:29])=[O:31],[Br:101][CH2:1][C:2]([O:3][C@H:4]1[C@@H:5]([CH2:6][CH3:7])[CH2:8][C@H:9]2[C@@H:10]3[CH2:11][CH2:12][C:13]4=[CH:14][C:15](=[O:16])[CH2:17][CH2:18][C@@H:19]4[C@H:20]3[CH2:21][CH2:22][C@:23]12[CH3:24])=[O:25].[CH3:26][CH2:27][CH:28]([CH3:29])[C:30](=[O:31])[OH:32].[H-:301].[Na+]>>[CH2:1]([C:2]([O:3][C@H:4]1[C@@H:5]([CH2:6][CH3:7])[CH2:8][C@H:9]2[C@@H:10]3[CH2:11][CH2:12][C:13]4=[CH:14][C:15](=[O:16])[CH2:17][CH2:18][C@@H:19]4[C@H:20]3[CH2:21][CH2:22][C@:23]12[CH3:24])=[O:25])[O:32][C:30]([CH:28]([CH2:27][CH3:26])[CH3:29])=[O:31],SN2_alcohol(thiol),"[(301, 32.1), ([32.1, 32], 32), (32, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)[Si](C)(C)[O:1][CH2:2][CH2:3][N:4]([CH2:5][CH2:6][c:7]1[cH:8][nH:9][c:10]2[cH:11][cH:12][cH:13][cH:14][c:15]12)[CH2:16][c:17]1[cH:34][cH:33][c:20]([CH:21]=[CH:22][C:23](=[O:24])[NH:25][c:26]2[cH:27][cH:28][cH:29][cH:30][c:31]2[NH2:32])[cH:19][cH:18]1>>[OH:1][CH2:2][CH2:3][N:4]([CH2:5][CH2:6][c:7]1[cH:8][nH:9][c:10]2[cH:11][cH:12][cH:13][cH:14][c:15]12)[CH2:16][c:17]1[cH:18][cH:19][c:20]([CH:21]=[CH:22][C:23](=[O:24])[NH:25][c:26]2[cH:27][cH:28][cH:29][cH:30][c:31]2[NH2:32])[cH:33][cH:34]1,CC(C)(C)[Si:101](C)(C)[O:1][CH2:2][CH2:3][N:4]([CH2:5][CH2:6][c:7]1[cH:8][nH:9][c:10]2[cH:11][cH:12][cH:13][cH:14][c:15]12)[CH2:16][c:17]1[cH:18][cH:19][c:20]([CH:21]=[CH:22][C:23](=[O:24])[NH:25][c:26]2[cH:27][cH:28][cH:29][cH:30][c:31]2[NH2:32])[cH:33][cH:34]1.[F-:301]>>[OH:1][CH2:2][CH2:3][N:4]([CH2:5][CH2:6][c:7]1[cH:8][nH:9][c:10]2[cH:11][cH:12][cH:13][cH:14][c:15]12)[CH2:16][c:17]1[cH:18][cH:19][c:20]([CH:21]=[CH:22][C:23](=[O:24])[NH:25][c:26]2[cH:27][cH:28][cH:29][cH:30][c:31]2[NH2:32])[cH:33][cH:34]1,SN2,"[(301, 101), ([101, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[c:3]1[cH:4][c:5]2[n:6][c:7](-[c:8]3[cH:9][cH:10][c:11]([Br:12])[cH:13][cH:14]3)[cH:15][c:16]([C:17]([F:18])([F:19])[F:20])[n:21]2[n:22]1.[NH2:23][CH2:24][c:25]1[cH:26][cH:27][cH:28][s:29]1>>[C:1](=[O:2])([c:3]1[cH:4][c:5]2[n:6][c:7](-[c:8]3[cH:9][cH:10][c:11]([Br:12])[cH:13][cH:14]3)[cH:15][c:16]([C:17]([F:18])([F:19])[F:20])[n:21]2[n:22]1)[NH:23][CH2:24][c:25]1[cH:26][cH:27][cH:28][s:29]1,[OH:101][C:1](=[O:2])[c:3]1[cH:4][c:5]2[n:6][c:7](-[c:8]3[cH:9][cH:10][c:11]([Br:12])[cH:13][cH:14]3)[cH:15][c:16]([C:17]([F:18])([F:19])[F:20])[n:21]2[n:22]1.[NH2:23][CH2:24][c:25]1[cH:26][cH:27][cH:28][s:29]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[cH:4][c:5]2[n:6][c:7](-[c:8]3[cH:9][cH:10][c:11]([Br:12])[cH:13][cH:14]3)[cH:15][c:16]([C:17]([F:18])([F:19])[F:20])[n:21]2[n:22]1)[NH:23][CH2:24][c:25]1[cH:26][cH:27][cH:28][s:29]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (23, 1), ([1, 2], 2), (303, 23.1), ([23.1, 23], 23), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6]([F:7])[c:8]([F:9])[c:10]1[NH:11][c:12]1[cH:13][cH:14][c:15]([I:16])[cH:17][c:18]1[F:19].[OH:20][CH2:21][CH2:22][C:23]1([OH:24])[CH2:25][NH:26][CH2:27]1>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][c:6]([F:7])[c:8]([F:9])[c:10]1[NH:11][c:12]1[cH:13][cH:14][c:15]([I:16])[cH:17][c:18]1[F:19])[N:26]1[CH2:25][C:23]([CH2:22][CH2:21][OH:20])([OH:24])[CH2:27]1,[OH:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6]([F:7])[c:8]([F:9])[c:10]1[NH:11][c:12]1[cH:13][cH:14][c:15]([I:16])[cH:17][c:18]1[F:19].[OH:20][CH2:21][CH2:22][C:23]1([OH:24])[CH2:25][NH:26][CH2:27]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][c:6]([F:7])[c:8]([F:9])[c:10]1[NH:11][c:12]1[cH:13][cH:14][c:15]([I:16])[cH:17][c:18]1[F:19])[N:26]1[CH2:25][C:23]([CH2:22][CH2:21][OH:20])([OH:24])[CH2:27]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (26, 1), ([1, 2], 2), (303, 26.1), ([26.1, 26], 26), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
